US07595315B2
2-(1,2-Diphenyl-ethyl)-morpholine-4-carboxylic acid benzyl ester
To a solution of 2-(1,2-Diphenyl-ethyl)-morpholine (2 g, 7.49 mmol) in dry dichloromethane (15 ml) at 0° C. under nitrogen atmosphere is added neat triethylamine (2.2 ml, 15.5 mmol, 2.07 equiv.) followed by the addition of neat benzyl chloroformate (1.61 ml, 11.23 mmol, 1.5 equiv.). The reaction is left to reach room temperature over 24 hours and then quenched by addition of a saturated bicarbonate (NaHCO3) aqueous solution. The resulting mixture is extracted with dichloromethane and the resulting organic phases are mixed, dried (MgSO4) and concentrated under reduced pressure to give an oil containing the four possible diastereoisomers (2.3 g, 78%). The diastereoisomers are separated using preparative HPLC, followed by each single enantiomer being resolved by preparative chiral HPLC.

reactant | 2-(1,2-Diphenyl-ethyl)-morpholine | 7.49 mmol, 2 g | C1(=CC=CC=C1)C(CC1=CC=CC=C1)C1CNCCO1 | C18H21NO
reactant | triethylamine | 15.5 mmol, 2.2 ml, 2.07 equiv. | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 11.23 mmol, 1.61 ml, 1.5 equiv. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(1,2-Diphenyl-ethyl)-morpholine-4-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(OCC1)C(CC1=CC=CC=C1)C1=CC=CC=C1 | C26H27NO3
